2152-09-27 07:15:00 Physician Resident Progress Note
Chief Complaint: Hypotension from pelvic fracture, L side hemiplegia,
   delta ms
   24 Hour Events:
 INVASIVE VENTILATION - START [**2152-9-26**] 12:30 PM
   Pt had acute MS change, was unresponsive and noted L side hemiplegia.
   CT/CTA showed large R cerebral hemisphere perfusion deficit. Pt
   intubated and went to angio, ?perf of ICA. Dr. [**First Name (STitle) 478**] discussed poor px
   w/ family, does not want ventriculostomy and made DNR, but will
   continue Rx/labs.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2152-9-26**] 08:40 AM
   Hydromorphone (Dilaudid) - [**2152-9-26**] 10:50 AM
   Propofol - [**2152-9-26**] 12:35 PM
   Dilantin - [**2152-9-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Neurologic: L side hemiplegia, unresponsive
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-9-27**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 63 (53 - 110) bpm
   BP: 121/43(66) {78/37(53) - 228/110(155)} mmHg
   RR: 17 (0 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84 kg (admission): 64.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,137 mL
                                                                  1,021 mL
   PO:
             TF:
   IVF:
                                                                  3,359 mL
                                                                  1,021 mL
   Blood products:
                                                                    778 mL
   Total out:
                                                                  1,350 mL
                                                                    158 mL
   Urine:
                                                                  1,350 mL
                                                                    158 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,787 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 598 (598 - 598) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/34/125/18/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, intubated/sedated
   Eyes / Conjunctiva: R 4mm NR, L 2mm sluggish
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased, localizes pain, had no corneal reflex or gag early,
   but mild gag.   R pupil larger than left.   Left hemiparesis.
   Labs / Radiology
   87 K/uL
   7.3 g/dL
   171 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   19 mg/dL
   114 mEq/L
   141 mEq/L
   20.6 %
   12.8 K/uL
        [image002.jpg]
                            [**2152-9-26**]  11:02 AM
                            [**2152-9-26**]  02:09 PM
                            [**2152-9-26**]  03:04 PM
                            [**2152-9-26**]  04:46 PM
                            [**2152-9-26**]  05:05 PM
                            [**2152-9-26**]  06:42 PM
                            [**2152-9-26**]  11:18 PM
                            [**2152-9-27**]  01:22 AM
                            [**2152-9-27**]  03:33 AM
                            [**2152-9-27**]  03:40 AM
   WBC
   12.8
   Hct
   26
   21
   24.1
   23.2
   20.6
   Plt
   87
   Cr
   0.8
   1.2
   TCO2
   19
   23
   23
   22
   21
   Glucose
   136
   118
   116
   156
   186
   171
   Other labs: PT / PTT / INR:12.8/29.6/1.1, ALT / AST:27/46, Alk Phos / T
   Bili:44/0.6, Amylase / Lipase:53/36, Lactic Acid:1.7 mmol/L, Ca++:6.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ACUTE PAIN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TRAUMA, S/P
   ASSESSMENT AND PLAN: 77F struck by car at golf course with unstable
   pelvic fracture with evidence of vascular injury as well as bilateral
   rib fx's, basilar skull fx, SDH and questionable injury around the
   right kidney.
   NEUROLOGIC: as described above, L hemiplegia and ICA bifurcation clot.
   intubated, sedated, on neuro checks involuntary movement of R arm, no
   corneal reflex, or gag. received dilantin load.
   Neuro checks Q: 1
   Pain: Fentanyl prn
   CARDIOVASCULAR: BP parameters 100-140 systolic, cont fluid
   resuscitation as needed. Pt on phenylephrine
   PULMONARY: intubated, minimize vent settings prn    Now on PSV
   GI / ABD: no issues, needs og/ng
   NUTRITION: NPO
   RENAL: Cr 0.8, adequate UOP, trend
   HEMATOLOGY: Serial Hct, last Hct 24 from 27, transfuse as needed
   ENDOCRINE: RISS
   ID: no Abx
   LINES/TUBES/DRAINS: ETT, RSC Cortis, PIV, Foley, aline
   WOUNDS: Right posterior scalp lac, bilateral leg abrasions, have ortho
   evaluate pelvic fracture
   IMAGING: none repeated
   FLUIDS: D5 1/2NS @75
   CONSULTS: Trauma, NSGY, neuro
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - Boots
   STRESS ULCER - Pantoprazole
   VAP BUNDLE -
   COMMUNICATIONS: daughter and son in law
   ICU Consent: Signed
   CODE STATUS: DNR, family wants Rx/labs while family visits/discussed
   NEOB to be contact[**Name (NI) **].
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Cordis/Introducer - [**2152-9-25**] 08:30 PM
   18 Gauge - [**2152-9-25**] 08:30 PM
   Arterial Line - [**2152-9-26**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU